US04620938
A mixture of 32.6 g of p-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyl)-acetophenone, 15 g of KOH, 25 ml of 85% hydrazine and 250 ml of diethylene glycol is warmed to 100° for 1 hour. The temperature is increased slowly until the hydrazone formed decomposes, and is boiled for another 4 hours, cooled and worked up in the customary manner to give trans-1-p-ethylphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane.

reactant | p-(trans-4-(trans-4-propylcyclohexyl)-cyclohexyl)-acetophenone | 32.6 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C(C)=O | C23H34O
reactant | KOH | 15 g | [OH-].[K+]
reactant | hydrazine | 25 ml | NN | H4N2
solvent | diethylene glycol | 250 ml | C(COCCO)O | C4H10O3
product | trans-1-p-ethylphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | C(C)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C23H36
